US03987160
3-Benzylbenzonitrile (83.45 g.; prepared as described by C. R. Hauser, W. Q. Beard and F. N. Jones, J. Org. Chem., 1961, 26, 4790) was dissolved in a mixture of anhydrous ethanol (52 ml.) and anhydrous chloroform (390 ml.). The solution was saturated with anhydrous hydrogen chloride at 0° C. and kept at 0° C. for 3 days. The solvent was evaporated in vacuo and the residue triturated with anhydrous diethyl ether. The solid obtained (78 g.) was treated with saturated anhydrous ethanolic ammonia (600 ml.), and the mixture maintained at 0° C. for 3 days. A small amount of ammonium chloride was filtered off and the filtrate was evaporated in vacuo. The gummy residue was triturated with anhydrous diethyl ether to give a solid, which was filtered off and extracted with hot water. The extract was filtered and evaporated to dryness in vacuo. The resulting residue was recrystallised from a mixture of ethanol and diethyl ether (with the aid of charcoal) to give 3-benzylbenzamidine hydrochloride (30.1 g.), m.p. 170°-180° C.

reactant | 3-Benzylbenzonitrile | 83.45 g | C(C1=CC=CC=C1)C=1C=C(C#N)C=CC1 | C14H11N
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | 600 ml | N | H3N
solvent | ethanol | 52 ml | C(C)O | C2H6O
solvent | chloroform | 390 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-benzylbenzamidine hydrochloride | 30.1 g | Cl.C(C1=CC=CC=C1)C=1C=C(C(=N)N)C=CC1 | InChI=1S/C14H14N2.ClH/c15-14(16)13-8-4-7-12(10-13)9-11-5-2-1-3-6-11;/h1-8,10H,9H2,(H3,15,16);1H
